US06156752
Sodium hydride (17.32 g, 0.433 mol) was washed with hexane (100 ml×2) then was suspended in dimethylformamide (300 ml). To the mixture was dropwise added thiophenol (44.5 ml, 0.433 mol) in DMF (50 ml ) under ice-methanol bath cooling with controlling the inner temperature of 5-10° C. under nitrogen atmosphere. After 1.5 h stirring at -5° C., methyl 4-chloroacetoacetate (50 ml, 0.433 mol) was dropwise added to the reaction mixture under ice-methanol bath cooling with controlling the inner temperature of 5-10° C. under nitrogen atmosphere and the reaction mixture was stirred at room temperature overnight. The mixture was acidified with 1N HCl to pH 2 under ice bath cooling then partitioned between EtOAc (500 ml) and H2O (100 ml). The aqueous phase was extracted with EtOAc (250 ml×2). The combined extracts were concentrated to about 500 ml and then washed with aq. NaHCO3 solution (150 ml) and brine (100 ml×3). The organic solution was dried over MgSO4 and concentrated to afford 100.88 g of methyl 4-phenylthioacetoacetate as an orange color oil. (104% yield).(contained 1/6 eq of DMF)

reactant | Sodium hydride | 0.433 mol, 17.32 g | [H-].[Na+]
reactant | thiophenol | 0.433 mol, 44.5 ml | C1(=CC=CC=C1)S | C6H6S
reactant | methyl 4-chloroacetoacetate | 0.433 mol, 50 ml | ClCC(CC(=O)OC)=O | C5H7ClO3
reactant | HCl | 1N | Cl | ClH
reactant | hexane | 100 ml | CCCCCC | C6H14
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | methyl 4-phenylthioacetoacetate | 100.88 g, 104% yield | C1(=CC=CC=C1)CC(CC(=S)OC)=O | C11H12O2S
